US08471005B2
7-(5-Chloro-2-methoxy-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine (75.0 mg, 0.000233 mol) and 4-Methoxybenzenamine (57.4 mg, 0.000466 mol) were dissolved in 2-Methoxyethanol (1.64 mL) and the reaction was heated at 180° C. until HPLC showed consumption of starting material. The reaction mixture was then reduced en vacuo and the product was isolated and purified by Gilson prep HPLC to afford 12.41 mg of [7-(5-Chloro-2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-methoxy-phenyl)-amine as a lyophilized powder. (M+H)=381.11. 1H NMR (400 MHz, DMSO, d6) δ 9.29 (s, 1H), 8.95 (s, 1H), 8.05 (m, 1H), 7.63 (d, 2H, J=9.09 Hz), 7.46 (m, 1H), 7.23 (d, 1H, J=8.84 Hz), 7.03 (d, 1H, J=4.55 Hz), 6.90 (d, 1H, J=4.55 Hz), 6.85 (m, 2H), 3.82 (s, 3H), 3.70 (s, 3H).

reactant | 7-(5-Chloro-2-methoxy-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | 0.000233 mol, 75.0 mg | ClC=1C=CC(=C(C1)C1=CC=C2C=NC(=NN21)S(=O)C)OC | C14H12ClN3O2S
reactant | 4-Methoxybenzenamine | 0.000466 mol, 57.4 mg | COC1=CC=C(C=C1)N | C7H9NO
solvent | 2-Methoxyethanol | 1.64 mL | COCCO | C3H8O2
product | [7-(5-Chloro-2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-methoxy-phenyl)-amine | 12.41 mg | ClC=1C=CC(=C(C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)OC)OC | C20H17ClN4O2
